US09078444B2
A solution of tert-butyl 2-methyl-4-(2-oxo-1,3,4-oxathiazol-5-yl)benzoate (50 mg) in 1,3-dichloro-5-[1-(trifluoromethyl)vinyl]benzene (5 mL, prepared according to WO 2005085216) was heated 190° C. during 10 minutes in a microwave. The residue was purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate) then on preparative HPLC to give tert-butyl 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzoate (18.5 mg) as a solid. 1H-NMR (CDCl3, 400 MHz): δ=7.86 (d, 1 H), 7.54-7.64 (m, 2 H), 7.41 (t, 1 H), 7.31 (s, 2 H), 4.23 (d, 1 H), 3.88 (d, 1 H), 2.61 (s, 3 H), 1.61 ppm (s, 9 H).

reactant | tert-butyl 2-methyl-4-(2-oxo-1,3,4-oxathiazol-5-yl)benzoate | 50 mg | CC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=NSC(O1)=O | C14H15NO4S
reactant | 1,3-dichloro-5-[1-(trifluoromethyl)vinyl]benzene | 5 mL | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
product | tert-butyl 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzoate | 18.5 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NS1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)C)C(F)(F)F | C22H20Cl2F3NO2S
